US07696184B2
(R)-2-Amino-4-[3-chloro-5-methoxy-4-(4,4,5,5,5-pentafluoro-pentyloxy)-phenyl]-2-methyl-butan-1-ol Hydrochloride
A solution of {(R)-1-Hydroxymethyl-3-[3-methoxy-4-(4,4,5,5,5-pentafluoro-pentyloxy)-phenyl]-1-methyl-propyl}-carbamic acid tert-butyl ester (32 mg, 0.07 mmol) in acetic acid (1 ml), conc. HCl (0.027 ml) and H2O2 (30%, 0.074 ml) is stirred at RT for 2 h. After evaporation of the solvent at RT, the oily residue is treated with toluene (1 ml), which is distilled off at RT. Et2O is added and the white precipitate is filtered off to yield the title compound. MS (ESI+): m/z=420/422 (MH+).

reactant | {(R)-1-Hydroxymethyl-3-[3-methoxy-4-(4,4,5,5,5-pentafluoro-pentyloxy)-phenyl]-1-methyl-propyl}-carbamic acid tert-butyl ester | 0.07 mmol, 32 mg | C(C)(C)(C)OC(N[C@@](CCC1=CC(=C(C=C1)OCCCC(C(F)(F)F)(F)F)OC)(C)CO)=O | C22H32F5NO5
reactant | HCl | 0.027 ml | Cl | ClH
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | H2O2 | 0.074 ml | OO | H2O2
product | (R)-2-Amino-4-[3-chloro-5-methoxy-4-(4,4,5,5,5-pentafluoro-pentyloxy)-phenyl]-2-methyl-butan-1-ol Hydrochloride | Cl.N[C@@](CO)(CCC1=CC(=C(C(=C1)OC)OCCCC(C(F)(F)F)(F)F)Cl)C | InChI=1S/C17H23ClF5NO3.ClH/c1-15(24,10-25)6-4-11-8-12(18)14(13(9-11)26-2)27-7-3-5-16(19,20)17(21,22)23;/h8-9,25H,3-7,10,24H2,1-2H3;1H/t15-;/m1./s1
